US07465726B2
3-[2-(3-Nitrophenyl)-2-oxoethyl]-3H-quinazolin-4-one
To a solution of 4(3H)-quinazolinone (2.19 g, 15.0 mol) in anhydrous DMF (10 mL) was added NaH (60% dispersion in mineral oil, 0.719 g, 18.0 mmol) in two portions with caution. The mixture was stirred at rt for 30 min. 3-Nitrophenacyl bromide (4.39 g, 18.0 mmol) was added and the resulting suspension was stirred at rt for 16 h. Solvent was removed under reduced pressure. To the residue were added water (10 mL) and 4 N HCl (aq) to adjust the pH to ≈6. The solid material was collected by filtration, washed with water (20 mL) and dichloromethane (3×20 mL) to afford the title compound as a white powder. 1H-NMR (CD3OD, 400 MHz): δ=5.70 (d, J=10.0 Hz, 2H), 7.60 (d, J=7.2 Hz, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.86-7.91 (m, 2H), 8.25 (d, J=8.0 Hz, 1H), 8.30 (s, 1H), 8.51-8.58 (m, 2H), 8.90 (t, J=1.2 Hz, 1H). MS (ES+): m/z 310.06 [MH+]. HPLC: tR=2.90 min (ZQ2000, polar—5 min).

reactant | 4(3H)-quinazolinone | 15.0 mol, 2.19 g | N1=CNC(C2=CC=CC=C12)=O | C8H6N2O
reactant | NaH | 18.0 mmol, 0.719 g | [H-].[Na+]
reactant | 3-Nitrophenacyl bromide | 18.0 mmol, 4.39 g | [N+](=O)([O-])C=1C=C(C(CBr)=O)C=CC1 | C8H6BrNO3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-[2-(3-Nitrophenyl)-2-oxoethyl]-3H-quinazolin-4-one | [N+](=O)([O-])C=1C=C(C=CC1)C(CN1C=NC2=CC=CC=C2C1=O)=O | C16H11N3O4
